US07238808B2
A mixture of 4-trifluoromethyl-2-(4-trifluoromethyl-phenyl)-imidazo[1,5-a]pyrimidine-8-carboxylic acid ethyl ester (5.6 g, 13.9 mmol), 2M potassium hydroxide solution (111 mL) and water (55 mL) was stirred at room temperature for 5 h, cooled (ice-water), and acetic acid (30 mL) was added. The mixture was evaporated, acetic acid (150 mL) was added and the stirred solution was heated under reflux conditions for 20 min. The reaction mixture was evaporated, water (150 mL) was added followed by extraction with ethyl acetate (2×300 mL). The combined organic layers were washed with brine (2×150 mL), dried (MgSO4) and evaporated. The crude product was further purified by column chromatography on silica gel (ethyl acetate/heptane 1:1) to yield 4-trifluoromethyl-2-(4-trifluoromethyl-phenyl)-imidazo[1,5-a]pyrimidine-8-carboxylic acid (1.93 g, 37%) as a yellow solid. MS (ISN) 374.3 [(M−H)−]; mp 231° C.

reactant | 4-trifluoromethyl-2-(4-trifluoromethyl-phenyl)-imidazo[1,5-a]pyrimidine-8-carboxylic acid ethyl ester | 13.9 mmol, 5.6 g | C(C)OC(=O)C=1N=CN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C17H11F6N3O2
reactant | potassium hydroxide | 2M, 111 mL | [OH-].[K+]
reactant | water | 55 mL | O | H2O
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 4-trifluoromethyl-2-(4-trifluoromethyl-phenyl)-imidazo[1,5-a]pyrimidine-8-carboxylic acid | 1.93 g, 37% | FC(C1=CC(=NC=2N1C=NC2C(=O)O)C2=CC=C(C=C2)C(F)(F)F)(F)F | C15H7F6N3O2
